US08557830B2
6-Bromo-7-methyl-8-nitroquinazolin-4(3H)-one (4.8 g, 17 mmol) was suspended in EtOH (500 ml) and degassed using a vacuum line. The mixture was then evacuated with nitrogen and 10% Pd/C (1.4 g) was added under a positive flow of nitrogen. The reaction was then placed under a hydrogen atmosphere with a large balloon while stirring. After 4 days, the reaction was filtered through a pad of celite. The filtrate was reduced under vacuum and the residue was triturated with ether to give 8-amino-7-methylquinazolin-4(3H)-one as an off white solid. MS Found: (ESI pos. ion) m/z 176 (M+H+).

reactant | 6-Bromo-7-methyl-8-nitroquinazolin-4(3H)-one | 17 mmol, 4.8 g | BrC=1C=C2C(NC=NC2=C(C1C)[N+](=O)[O-])=O | C9H6BrN3O3
solvent | EtOH | 500 ml | CCO | C2H6O
product | 8-amino-7-methylquinazolin-4(3H)-one | NC=1C(=CC=C2C(NC=NC12)=O)C | C9H9N3O
